US08283353B2
ethyl 2-[(trans-4-{6-[(2′-cyanobiphenyl-4-yl)methyl]-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]butanoate
A mixture of 4′-{[4-(trans-4-hydroxycyclohexyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile (0.87 g), rhodium(II) acetate (dimer) (0.0084 g) and toluene (10 mL) was heated to 80° C. under an argon atmosphere, a solution of 2-diazobutyric acid ethyl ester (1.0 g) in toluene (10 mL) was added dropwise, and the mixture was stirred at 80° C. for 30 min. The reaction mixture was added to water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.78 g, 71%).

reactant | 4′-{[4-(trans-4-hydroxycyclohexyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 0.87 g | O[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2 | C28H29N5O2
reactant | 2-diazobutyric acid ethyl ester | 1.0 g | C(C)OC(C(CC)=[N+]=[N-])=O | C6H10N2O2
reactant | water | O | H2O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | rhodium(II) acetate | 0.0084 g | C(C)(=O)[O-].[Rh+2].C(C)(=O)[O-]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | ethyl 2-[(trans-4-{6-[(2′-cyanobiphenyl-4-yl)methyl]-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]butanoate | 0.78 g, 71% | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CC=1C(N(C=2N(C1CCC)N=CN2)[C@@H]2CC[C@H](CC2)OC(C(=O)OCC)CC)=O | C34H39N5O4
